US04144047
Preparation of Dimethyl 3-(p-Cyanophenyl)-4,5-Isothiazoledicarboxylate.
Dimethyl acetylenedicarboxylate (42.63 g, 0.4 mol) and 5-(p-cyanophenyl)-1,3,4-oxathiazol-2-one (20.42 g, 0.1 mol) were heated at reflux in o-dichlorobenzene for 10 hours. Volatile materials were removed under reduced pressure (1 mm). The red-brown residue contained at least three contaminants (g.c.) which were removed by crystallization from methanol. Four recrystallizations resulted in 18.1 g (0.0598 mol, 59%) of light yellow solid, m.p. 134°-135°.

reactant | Dimethyl acetylenedicarboxylate | 0.4 mol, 42.63 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | 5-(p-cyanophenyl)-1,3,4-oxathiazol-2-one | 0.1 mol, 20.42 g | C(#N)C1=CC=C(C=C1)C1=NSC(O1)=O | C9H4N2O2S
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Dimethyl 3-(p-Cyanophenyl)-4,5-Isothiazoledicarboxylate | C(#N)C1=CC=C(C=C1)C1=NSC(=C1C(=O)OC)C(=O)OC | C14H10N2O4S
